US07141596B2
Step 9. Synthesis of 3-bromo-4-(1,1-dioxido-3-oxo-2-[2-(trimethylsilyl)ethoxy]-methylisothiazolidin-5-yl)benzaldehyde
To a solution of 5-[2-bromo-4-(hydroxymethyl)phenyl]-2-[2-(trimethylsilyl)ethoxy]-methylisothiazolidin-3-one 1,1-dioxide (0.70 g, 1.6 mmol) in methylene chloride (15 mL) was added Dess-Martin periodinane (725 mg, 1.71 mmol) at room temperature. After stirring for 1 h, reaction solution was diluted with diethyl ether, quenched with saturated sodium bicarbonate solution. The aqueous phase was extracted with diethyl ether once. The combined organic solutions were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified with silica gel chromatography (5%–50% ethyl acetate/hexanes) to afford product as oil (0.69 g, 99%). 1H NMR (400 MHz, CDCl3): δ 10.01 (s, 1H), 8.21 (d, J=1.6 Hz, 1H), 7.92 (dd, J=8.2, 1.6 Hz, 1H), 7.57 (d, J=8.2 Hz, 1H), 7.38 (m, 4H), 5.60 (dd, J=8.2, 6.2 Hz, 1H), 5.09 (dd, J=15.0, 11.3 Hz, 2H), 3.66 (dd, J=9.2, 7.4 Hz, 2H), 3.56 (dd, J=17.6, 8.2 Hz, 1H), 3.28 (dd, J=17.6, 6.2 Hz, 1H), 0.96 (dd, J=8.6, 7.0 Hz, 2H), 0.01 (s, 9H). LCMS found for C16H23BrNO5SSi (M+H)+: m/z=448, 450.

reactant | 5-[2-bromo-4-(hydroxymethyl)phenyl]-2-[2-(trimethylsilyl)ethoxy]-methylisothiazolidin-3-one 1,1-dioxide | 1.6 mmol, 0.70 g | BrC1=C(C=CC(=C1)CO)C1C(C(N(S1(=O)=O)OCC[Si](C)(C)C)=O)C | C16H24BrNO5SSi
reactant | Dess-Martin periodinane | 1.71 mmol, 725 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-bromo-4-(1,1-dioxido-3-oxo-2-[2-(trimethylsilyl)ethoxy]-methylisothiazolidin-5-yl)benzaldehyde | 0.69 g, 99% | BrC=1C=C(C=O)C=CC1C1C(C(N(S1(=O)=O)OCC[Si](C)(C)C)=O)C | C16H22BrNO5SSi
